US06630600B1
3-(4-Benzyloxyphenyl)-2-ethoxy-2-methyl propanoic acid ethyl ester (0.34 g; 0.99 mmole) was hydrogenated for 18 hours at atmospheric pressure in ethyl acetate using Pd/C (0.05 g) as catalyst and then filtered through hyflo. The solvent was evaporated and 0.249 g (98% yield) of 2-ethoxy-3-(4-hydroxyphenyl)-2-methyl propanoic acid ethyl ester was obtained.

reactant | 3-(4-Benzyloxyphenyl)-2-ethoxy-2-methyl propanoic acid ethyl ester | 0.99 mmole, 0.34 g | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OCC)=O | C21H26O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 2-ethoxy-3-(4-hydroxyphenyl)-2-methyl propanoic acid ethyl ester | 0.249 g, 98% yield | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OCC)=O | C14H20O4
